US04483850
A solution of 1.0 millimole of N-(1-Ethoxycarbonyl-3-phenylpropyl)-L-alanyl-L-prolyl-L-phenylalanine in 4 ml of 1N NaOH was kept at room temperature for 18 hours. The solution was put on a column of 300 ml of Dowex 50 (H+) resin. After washing with 500 ml water, the product was eluted with 3% aqueous pyridine solution. After concentration of the eluate in vacuo and lyophilization, the N-(1-carboxy-3-phenylpropyl)-L-alanyl-L-prolyl-L-phenylalanine product was obtained as an amorphous solid.

reactant | N-(1-Ethoxycarbonyl-3-phenylpropyl)-L-alanyl-L-prolyl-L-phenylalanine | 1.0 millimole | C(C)OC(=O)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)CCC1 | C29H37N3O6
solvent | NaOH | 1N, 4 ml | [OH-].[Na+]
product | N-(1-carboxy-3-phenylpropyl)-L-alanyl-L-prolyl-L-phenylalanine | C(=O)(O)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)CCC1 | C27H33N3O6
